US05859251
4,4'-(9,9-bis-n-decyl-2,7-fluorenediyldi-2,1 -ethenediyl)bis-pyridine
2,7-Dibromo-9,9-di-n-decyl-9H-fluorene (10.0 g, 16.5 mmol), tri-o-tolylphosphine (2.01 g, 6.6 mmol), degassed triethylamine (40 ml) and 4-vinylpyridine (5.35 ml, 49.62 mmol) was added to a single-necked round bottom flask under to nitrogen equipped with a magnetic stir bar and a reflux condenser. The palladium catalyst (0.19 g, 0.83 mmol) was added and the solution heated at 95° C. for 18 hours. The reaction mixture was cooled to room temperature and the solvent removed under reduced pressure. The residue was dissolved in methylene chloride, and the organic layer washed three times with equal volumes of water, dried over anhydrous MgSO4, filtered and concentrated. The product was purified by column chromotography on alumina using 30/70 ethyl acetate/hexane to yield the product as a yellow oil in 71.48% yield.Mass Spec. m/z 652 (M+), 511 (M--C10H21). Elemental Analysis: Calculated for C47H60N2 : C, 86.45, H, 9.26, N, 4.29. Found: C, 86.50, H, 8.84, N, 3.78.

reactant | 2,7-Dibromo-9,9-di-n-decyl-9H-fluorene | 16.5 mmol, 10.0 g | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(CCCCCCCCCC)CCCCCCCCCC | C33H48Br2
reactant | tri-o-tolylphosphine | 6.6 mmol, 2.01 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 4-vinylpyridine | 49.62 mmol, 5.35 ml | C(=C)C1=CC=NC=C1 | C7H7N
reactant | triethylamine | 40 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium | 0.83 mmol, 0.19 g | [Pd] | Pd
product | 4,4'-(9,9-bis-n-decyl-2,7-fluorenediyldi-2,1 -ethenediyl)bis-pyridine | 71.48% yield | C(CCCCCCCCC)C1(C2=CC(=CC=C2C=2C=CC(=CC12)C=CC1=CC=NC=C1)C=CC1=CC=NC=C1)CCCCCCCCCC | C47H60N2
